US07452893B2
A N,N-dimethylformamide (150 mL) solution of {[4-(Benzyloxy)cyclohex-1-en-1-yl]oxy}(tert-butyl)dimethylsilane (23.2 g, 73.0 mmol) was cooled in an ice bath under nitrogen and to this was added Selectfluor™ (51.6 g, 146 mmol) in several portions. After 1 h the contents of the reaction flask were poured into 5% sodium bicarbonate. The resulting mixture was extracted with ethyl acetate (4×) and the combined organic extracts were washed successively with water and brine, dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Flash column chromatography (hexane:ethyl acetate, 80:20) gave 4-(Benzyloxy)-2-fluorocyclohexanone as a pale oil (10.0 g, 62% yield): 1H NMR (CDCl3) δ 7.39-7.30 (m, 5H), 5.36-5.19 (m, 1H), 4.61 (s, 2H), 4.02 (m, 1H), 2.81-2.73 (m, 2H), 2.45-2.41 (m, 1H), 2.36-2.30 (m, 1H), 2.05-1.88 (m, 1H), 1.85-1.77 (m, 1H).

reactant | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
reactant | {[4-(Benzyloxy)cyclohex-1-en-1-yl]oxy}(tert-butyl)dimethylsilane | 73.0 mmol, 23.2 g | C(C1=CC=CC=C1)OC1CC=C(CC1)O[Si](C)(C)C(C)(C)C | C19H30O2Si
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-(Benzyloxy)-2-fluorocyclohexanone | 10.0 g, 62% yield | C(C1=CC=CC=C1)OC1CC(C(CC1)=O)F | C13H15FO2
